Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HPI: ___ w/no medical hx who p/w with ___ days of generalized 
abdominal pain and a 1 day history of RLQ pain. Pt is a ___ 
student who had a generalized abdominal discomfort last week 
which he thought was constipation. This discomfort/constipation 
dissipated 3 days ago and the pt was having normal BMs. However, 
2 nights ago the pt developed more severe pain in his lower 
abdomen. The following morning the pain was still present but 
the pt managed to have a banana and granola bar for breakfast. 
He had little appetite during the rest of the day and by 5pm 
yesterday afternoon the pain had escalated and localized to the 
RLQ. When asked to point with one finger at the location of his 
pain pt pointed to ___'s. He also was nauseated but no 
vomiting. No fever or chills. No diarrhea or dysuria. No prior 
episodes of similar pain.

 
Past Medical History:
none
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
GEN: A&O, NAD
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, tenderness over McBurney's point, no 
palpable masses, no rebound or guarding
EXT: without edema

 
Pertinent Results:
___ 05:45AM BLOOD WBC-12.8* RBC-5.08 Hgb-16.1 Hct-44.5 
MCV-88 MCH-31.7 MCHC-36.2* RDW-12.5 Plt ___
___ 05:50AM BLOOD WBC-10.9 RBC-4.58* Hgb-14.0 Hct-40.3 
MCV-88 MCH-30.5 MCHC-34.7 RDW-12.6 Plt ___
___ 10:20PM BLOOD WBC-12.3* RBC-5.20 Hgb-16.1 Hct-45.4 
MCV-87 MCH-30.9 MCHC-35.4* RDW-12.8 Plt ___
___ 10:20PM BLOOD Neuts-61.4 ___ Monos-5.4 Eos-1.9 
Baso-0.6
___ 05:45AM BLOOD Plt ___
___ 10:38PM BLOOD ___ PTT-34.3 ___
___ 05:45AM BLOOD Glucose-93 UreaN-4* Creat-0.9 Na-138 
K-4.5 Cl-100 HCO3-28 AnGap-15
___ 10:20PM BLOOD ALT-23 AST-19 AlkPhos-85 TotBili-0.3
___ 05:45AM BLOOD Calcium-9.5 Phos-3.7 Mg-2.0
___ 10:49AM BLOOD WBC-11.1* RBC-5.18 Hgb-15.9 Hct-45.4 
MCV-88 MCH-30.6 MCHC-35.0 RDW-12.4 Plt ___
___ 06:12AM BLOOD Glucose-70 UreaN-6 Creat-1.0 Na-138 K-4.2 
Cl-98 HCO3-28 AnGap-16

___   ___ 11:___BD & PELVIS WITH CONTRAST   Clip # ___   
Reason: Appy?  
Contrast: OMNIPAQUE Amt: 130 
 

 
UNDERLYING MEDICAL CONDITION: 
   History: ___ with RLQ pain last ___ days, ttp at ___ 
___  
REASON FOR THIS EXAMINATION: 
   Appy?  
CONTRAINDICATIONS FOR IV CONTRAST: 
   None. 

 
 
Wet Read: ___ ___ 12:21 AM 
Acute appendicitis measuring 3.4 x 2.4 cm at the origin at the 
cecal base and 
3.5 x 3.4 cm at its midportion (at the level of an 
appendicolith) with 
associated periappendiceal phlegmonous fatstranding between the 
appendix and 
the psoas. 
  

 
Wet Read Audit # 1  

 
Final Report 
INDICATION:  ___ with right lower quadrant pain for 
three days. 
  
TECHNIQUE:  Contiguous MDCT images of the abdomen and pelvis 
were performed 
after the administration of intravenous contrast.  Axial, 
coronal, and 
sagittal reformats were acquired. 
  
COMPARISON:  None. 
  
FINDINGS: 
  
CT OF THE ABDOMEN:   
The lung bases are clear with no focal hepatic lesions.  The 
gallbladder, 
pancreas, spleen, both adrenal glands, and kidneys are normal.  
The portal 
venous, systemic venous, and systemic arterial system of the 
abdomen and 
pelvis are normal.  There is no retroperitoneal or mesenteric 
lymphadenopathy. 
The stomach and small bowel are normal.  There is acute 
appendicitis with the 
appendix measuring about 3.4 x 2.4 cm at the origin of the cecal 
base and 3.5 
x 3.4 cm at its mid portion at the level of the appendicolith.  
There is 
associated periappendiceal phlegmonous fat stranding, most 
pronounced between 
the appendix and the right psoas muscle (series 601B, image 27). 
 There is no 
free air.  A small amount of free fluid is seen in the pelvis 
(series 2, image 
66). 
  
CT OF THE PELVIS:   
The prostate gland, urinary bladder, and seminal vesicles are 
normal without 
pelvic lymphadenopathy, and a small amount of free fluid in the 
pelvis.  A 
benign appearing (likely non-ossifying fibroma) bone lesions is 
seen at the 
right proximal femur. 
  
IMPRESSION:  
Acute appendicitis measuring 3.4 x 2.4 cm at the origin at the 
cecal base and 
3.5 x 3.4 cm at its midportion (at the level of an 
appendicolith) with 
associated periappendiceal phlegmonous fatstranding between the 
appendix and 
the psoas.  
  
 

 
Brief Hospital Course:
The patient was admitted to the acute care service with 
abdominal pain on ___.  Upon admission, he was made NPO, 
given intravenous fluids, and underwent imaging.  On cat scan he 
was found to have appendicitis with periappendiceal phlegmon. He 
was started on ciprofloxacin and flagyl and underwent serial 
abdominal examinations. 

On HD #2, he was started on clear liquids, but reported 
increased abdominal discomfort. He was maintained on clear 
liquids for another 24 hours and his vital signs were closely 
monitored. His white blood cell count stabilized at 12 and was 
11 on the day of discharge. His abdominal discomfort was 
controlled with oral analgesia.  

He resumed a regular diet on HD 3 and was switched to PO 
antibiotics. Because he was tolerating a regular diet his pain 
was well controlled and he was ambulating he was discharged to 
home with instructions to follow up with Dr. ___ in the acute 
care surgery clinic. 
 
Medications on Admission:
none
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H 
RX *acetaminophen 650 mg 1 tablet(s) by mouth Every 6 hours Disp 
#*30 Tablet Refills:*1
2. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
hold for increased sedation, resp. rate <12 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*30 Tablet Refills:*1
3. Docusate Sodium 100 mg PO BID 
4. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin [Cipro] 500 mg 1 tablet(s) by mouth twice per 
day Disp #*25 Tablet Refills:*0
5. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth every 8 
hours Disp #*38 Tablet Refills:*0
6. Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth every 8 hours Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
appendicitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with lower abdominal pain.  
You underwent a cat scan of the abdomen which showed a 
perforated appendicitis. You were placed on intravenous 
antibiotics and bowel rest. You were discharged home on 
antibiotics after your abdominal pain decreased with 
instructions to follow up in the acute care clinic to discuss 
removal of your appendix.  You are preparing for discharge home 
with the following instructions: 

Please call your doctor or return to the emergency room if you 
have any of the following:

* Recurrence of your abdominal pain
 

 * You experience new chest pain, pressure, squeezing or 
 tightness.
 
* New or worsening cough or wheezing.
 
* If you are vomiting and cannot keep in fluids or your 
 medications.
 
* You are getting dehydrated due to continued vomiting, 
 diarrhea or other reasons. Signs of dehydration include dry 
 mouth, rapid heartbeat or feeling dizzy or faint when standing.
 
* You see blood or dark/black material when you vomit or have a 
 bowel movement.
 

* You have shaking chills, or a fever greater than 101.5 (F) 
 degrees or 38(C) degrees.
 
* Any serious change in your symptoms, or any new symptoms that 
 concern you. 
 
* Please resume all regular home medications and take any new 
meds 
 as ordered, and complete your course of antibiotics.

 
Followup Instructions:
___